US08633189B2
2-(2-Aminophenyl)disulfanylaniline (1.0 g, 4.0 mmol) and ethyl prop-2-ynoate (790 mg, 816 μL, 8.05 mmol) were combined in a microwave tube and heated at 150° C. for 30 min. The reaction was concentrated in vacuo. Silica gel chromatography (10-35% ethyl acetate/hexane) provided ethyl 4H-1,4-benzothiazine-2-carboxylate as an orange solid (200 mg, 23% yield). LC/MS m/z 222.0 [M+H]+. 1H NMR (400.0 MHz, CDCl3) δ 7.11 (d, J=6.6 Hz, 1H), 6.86-6.82 (m, 1H), 6.79-6.74 (m, 2H), 6.27 (d, J=7.9 Hz, 1H), 5.68 (br d, J=4.2 Hz, 1H), 4.19 (q, J=7.2 Hz, 2H), 1.28 (t, J=7.1 Hz, 3H)

reactant | 2-(2-Aminophenyl)disulfanylaniline | 4.0 mmol, 1.0 g | NC1=C(C=CC=C1)SSNC1=CC=CC=C1 | C12H12N2S2
reactant | ethyl prop-2-ynoate | 8.05 mmol, 816 μL, 790 mg | C(C#C)(=O)OCC | C5H6O2
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | ethyl 4H-1,4-benzothiazine-2-carboxylate | 200 mg, 23% yield | S1C(=CNC2=C1C=CC=C2)C(=O)OCC | C11H11NO2S
